US03998959
Similarly, 4,5,6,7-tetrahydro-7-methoxybenzo[b]-thien-4-ylisocyanate is allowed to react with propargylamine, methoxyamine, hydroxylamine, n-butoxyamine and methylmethoxyamine to afford 1-propynyl-, 1-methoxy-, 1-hydroxy-, 1(-n-butoxy)-, and 1-methyl-1-methoxy-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, respectively.

reactant | 4,5,6,7-tetrahydro-7-methoxybenzo[b]-thien-4-ylisocyanate | COC1CCC(C2=C1SC=C2)N=C=O | C10H11NO2S
reactant | propargylamine | C(C#C)N | C3H5N
reactant | methoxyamine | CON | CH5NO
reactant | hydroxylamine | NO | H3NO
reactant | n-butoxyamine | C(CCC)ON | C4H11NO
reactant | methylmethoxyamine | CNOC | C2H7NO
product | 1-methyl-1-methoxy-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CN(C(=O)NC1CCCC=2SC=CC21)OC | C11H16N2O2S
